US05567413
a) 12-(Acryloyloxy)dodecanoic Acid
12-Hydroxydodecanoic acid (5.0 g, 0.023 mol) dissolved in tetrahydrofuran (100 ml) and pyridine (2.16 g, 0.027 mol) was cooled to 0° C. Acryloyl chloride (3.15 g, 0.023 mol) in tetrahydrofuran (75 ml) was then added dropwise to the solution. The mixture was stirred for 5 hours at 0° C. then stirred overnight at room temperature. The precipitated pyridinium salt was filtered off and the solvent removed under vacuum. The resulting liquid was purified by flash chromatography (silica gel/chloroform) to give 2.5 g (40%) of the title compound. 1H NMR (60 MHz, CDCl3): δ 1.20 (s, 18H, CH2), 2.15 (m, 2H, CH2COOH), 4.0 (m, 2H, COOCH2), 5.7-6.0 (m, 3H, CH2 = and =CH).

reactant | 12-Hydroxydodecanoic acid | 0.023 mol, 5.0 g | OCCCCCCCCCCCC(=O)O | C12H24O3
reactant | pyridine | 0.027 mol, 2.16 g | N1=CC=CC=C1 | C5H5N
reactant | Acryloyl chloride | 0.023 mol, 3.15 g | C(C=C)(=O)Cl | C3H3ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 12-(Acryloyloxy)dodecanoic Acid | 2.5 g, 40% | C(C=C)(=O)OCCCCCCCCCCCC(=O)O | C15H26O4
